US06586617B1
To a suspension of sodium hydride (60%, 0.15 g (3.75 mmol)) in 3.0 ml of DMF, 2′-nitro-p-toluenesulfonanilide (1.00 g (3.42 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, dimethyl sulfate (0.4 ml (4.22 mmol)) was added dropwise. After 2 hour's stirring, water was added to bring about separation of crystals. The resulting crystals were filtered, washed with water, dried and subjected to silica gel column chromatography with ethyl acetate-hexane (1:2 to 1:1) as eluent to give 0.93 g (89%) of N-methyl-2′-nitro-p-toluenesulfonanilide (Compound No.38) as pale yellow crystals.

reactant | sodium hydride | 3.75 mmol, 0.15 g | [H-].[Na+]
reactant | 2′-nitro-p-toluenesulfonanilide | 3.42 mmol, 1.00 g | [N+](=O)([O-])C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC=C1 | C13H12N2O4S
reactant | dimethyl sulfate | 4.22 mmol, 0.4 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-methyl-2′-nitro-p-toluenesulfonanilide | 0.93 g, 89% | CN(C1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C14H14N2O4S
